US04075342
2-(4-Methoxyphenyl)-5,6-dihydro-imidazo[2,1-a]isoquinoline
To a one liter autoclave are charged 7.1 g. of 2-(4-methoxyphenyl)imidazo[2,1-a]isoquinoline, 210 ml. of ethanol, 150 ml. of acetic acid and 0.55 g. of 10% palladium on charcoal. After flushing and filling the autoclave with hydrogen, the mixture is hydrogenated at 90° C. and 10 atmospheres for 3 hours. After absorption of 1.5 atmospheres of hydrogen gas, the autoclave is cooled and vented and 200 ml. of CHCl3 is added to the reaction mixture. The catalyst is filtered off, and the solution is evaporated to dryness, giving a solid residue which is suspended in 10% ammonium hydroxide, then extracted with dichloromethane. After drying over Na2SO4, the organic solvent is evaporated off and the residue is crystallized from ethanol giving 4.55 g. of the title product, which melts at 179°-81° C.

reactant | 2-(4-methoxyphenyl)imidazo[2,1-a]isoquinoline | COC1=CC=C(C=C1)C=1N=C2N(C=CC3=CC=CC=C23)C1 | C18H14N2O
reactant | ethanol | C(C)O | C2H6O
reactant | acetic acid | C(C)(=O)O | C2H4O2
catalyst | palladium on charcoal | [Pd] | Pd
solvent | ammonium hydroxide | [OH-].[NH4+]
product | 2-(4-Methoxyphenyl)-5,6-dihydro-imidazo[2,1-a]isoquinoline | COC1=CC=C(C=C1)C=1N=C2N(CCC3=CC=CC=C23)C1 | C18H16N2O
